** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=9e-6 W=18e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=139e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=172e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=229e-6
mNormalTransistorNmos8 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=180e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=42e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=383e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=371e-6
mNormalTransistorNmos12 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=180e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=363e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=4e-6 W=363e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=9e-6 W=547e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=3e-6 W=62e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourcePmos sourcePmos pmos4 L=9e-6 W=172e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 3.21201 mW
** Area: 14508 (mu_m)^2
** Transit frequency: 35.8221 MHz
** Transit frequency with error factor: 35.8224 MHz
** Slew rate: 35.622 V/mu_s
** Phase margin: 79.6412°
** CMRR: 137 dB
** VoutMax: 3.89001 V
** VoutMin: 0.600001 V
** VcmMax: 3.58001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 42.0331 muA
** NormalTransistorNmos: 225.631 muA
** NormalTransistorPmos: -19.0459 muA
** NormalTransistorNmos: 172.845 muA
** NormalTransistorNmos: 172.845 muA
** DiodeTransistorPmos: -172.844 muA
** NormalTransistorPmos: -172.844 muA
** NormalTransistorPmos: -172.844 muA
** NormalTransistorNmos: 364.737 muA
** NormalTransistorNmos: 364.736 muA
** NormalTransistorNmos: 172.846 muA
** NormalTransistorNmos: 172.846 muA
** DiodeTransistorNmos: 19.0451 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -42.0339 muA
** DiodeTransistorPmos: -225.63 muA


** Expected Voltages: 
** ibias: 1.11601  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 1.93601  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.21001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.561001  V
** innerTransistorStack2Load2: 2.89701  V
** out1: 3.72201  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END