** Name: SimpleOpAmp119

.MACRO SimpleOpAmp119 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=2e-6 W=9e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=20e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=273e-6
mDiodeTransistorPmos5 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=345e-6
mDiodeTransistorPmos6 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 pmos4 L=1e-6 W=228e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=188e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=93e-6
mNormalTransistorNmos9 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=459e-6
mNormalTransistorNmos10 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=2e-6 W=439e-6
mNormalTransistorNmos11 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=188e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=284e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=284e-6
mNormalTransistorPmos14 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=1e-6 W=228e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=4e-6 W=222e-6
mNormalTransistorPmos16 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourcePmos sourcePmos pmos4 L=1e-6 W=345e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp119

** Expected Performance Values: 
** Gain: 100 dB
** Power consumption: 2.70101 mW
** Area: 7642 (mu_m)^2
** Transit frequency: 37.7921 MHz
** Transit frequency with error factor: 37.7923 MHz
** Slew rate: 43.1748 V/mu_s
** Phase margin: 79.6412°
** CMRR: 150 dB
** VoutMax: 4.06001 V
** VoutMin: 0.600001 V
** VcmMax: 3.75 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 93.0731 muA
** NormalTransistorPmos: -76.5019 muA
** NormalTransistorNmos: 180.305 muA
** NormalTransistorNmos: 180.305 muA
** DiodeTransistorPmos: -180.304 muA
** DiodeTransistorPmos: -180.305 muA
** NormalTransistorPmos: -180.304 muA
** NormalTransistorPmos: -180.305 muA
** NormalTransistorNmos: 437.113 muA
** NormalTransistorNmos: 437.112 muA
** NormalTransistorNmos: 180.306 muA
** NormalTransistorNmos: 180.306 muA
** DiodeTransistorNmos: 76.5011 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -93.0739 muA


** Expected Voltages: 
** ibias: 1.125  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.15901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.570001  V
** innerTransistorStack1Load2: 4.26501  V
** innerTransistorStack2Load2: 4.26401  V
** out1: 3.49001  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END