** Name: SimpleOpAmp89

.MACRO SimpleOpAmp89 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=16e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=10e-6 W=10e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=183e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=6e-6 W=17e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=183e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=183e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=183e-6
mNormalTransistorPmos10 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=171e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=10e-6 W=13e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=10e-6 W=19e-6
mNormalTransistorPmos13 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=10e-6 W=357e-6
mNormalTransistorPmos14 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=171e-6
mNormalTransistorPmos15 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=360e-6
mNormalTransistorPmos16 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=360e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp89

** Expected Performance Values: 
** Gain: 96 dB
** Power consumption: 2.08001 mW
** Area: 7076 (mu_m)^2
** Transit frequency: 33.4471 MHz
** Transit frequency with error factor: 33.4469 MHz
** Slew rate: 36.0154 V/mu_s
** Phase margin: 71.0468°
** CMRR: 149 dB
** VoutMax: 3.75 V
** VoutMin: 0.300001 V
** VcmMax: 3.52001 V
** VcmMin: -0.0699999 V


** Expected Currents: 
** NormalTransistorNmos: 13.8931 muA
** NormalTransistorPmos: -13.2339 muA
** NormalTransistorPmos: -19.2389 muA
** NormalTransistorPmos: -174.775 muA
** NormalTransistorPmos: -174.775 muA
** NormalTransistorNmos: 174.776 muA
** NormalTransistorNmos: 174.775 muA
** NormalTransistorNmos: 174.776 muA
** NormalTransistorNmos: 174.775 muA
** NormalTransistorPmos: -363.442 muA
** NormalTransistorPmos: -174.774 muA
** NormalTransistorPmos: -174.774 muA
** DiodeTransistorNmos: 13.2331 muA
** DiodeTransistorNmos: 19.2381 muA
** DiodeTransistorPmos: -13.8939 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.646001  V
** outVoltageBiasXXnXX1: 0.705001  V
** outVoltageBiasXXpXX1: 2.10801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.22801  V
** innerTransistorStack1Load2: 0.150001  V
** innerTransistorStack2Load2: 0.150001  V
** out1: 0.555001  V
** sourceGCC1: 3.01101  V
** sourceGCC2: 3.01101  V


.END