** Name: SimpleOpAmp87

.MACRO SimpleOpAmp87 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=26e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=193e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=4e-6 W=4e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=12e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=194e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=124e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=193e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=85e-6
mNormalTransistorPmos10 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=10e-6
mNormalTransistorPmos11 outVoltageBiasXXnXX1 ibias sourcePmos sourcePmos pmos4 L=4e-6 W=37e-6
mNormalTransistorPmos12 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=4e-6 W=341e-6
mNormalTransistorPmos13 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=85e-6
mNormalTransistorPmos14 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=600e-6
mNormalTransistorPmos15 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=600e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp87

** Expected Performance Values: 
** Gain: 93 dB
** Power consumption: 4.99301 mW
** Area: 3842 (mu_m)^2
** Transit frequency: 63.0251 MHz
** Transit frequency with error factor: 63.0251 MHz
** Slew rate: 85.5051 V/mu_s
** Phase margin: 80.7871°
** CMRR: 145 dB
** VoutMax: 3.57001 V
** VoutMin: 0.300001 V
** VcmMax: 3.5 V
** VcmMin: 0.640001 V


** Expected Currents: 
** NormalTransistorNmos: 119.577 muA
** NormalTransistorPmos: -25.3449 muA
** NormalTransistorPmos: -92.3459 muA
** NormalTransistorPmos: -370.667 muA
** NormalTransistorPmos: -370.667 muA
** DiodeTransistorNmos: 370.668 muA
** NormalTransistorNmos: 370.668 muA
** NormalTransistorNmos: 370.668 muA
** NormalTransistorPmos: -860.911 muA
** NormalTransistorPmos: -370.666 muA
** NormalTransistorPmos: -370.666 muA
** DiodeTransistorNmos: 25.3441 muA
** DiodeTransistorNmos: 92.3451 muA
** DiodeTransistorPmos: -119.576 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.68501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.556001  V
** outVoltageBiasXXnXX1: 0.705001  V
** outVoltageBiasXXpXX1: 1.94201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.24901  V
** innerTransistorStack2Load2: 0.150001  V
** out1: 0.555001  V
** sourceGCC1: 3.00201  V
** sourceGCC2: 3.00201  V


.END