** Name: SimpleOpAmp90

.MACRO SimpleOpAmp90 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=80e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=80e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos6 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=80e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=2e-6 W=51e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=80e-6
mNormalTransistorPmos9 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=86e-6
mNormalTransistorPmos10 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mNormalTransistorPmos11 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=2e-6 W=429e-6
mNormalTransistorPmos12 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=86e-6
mNormalTransistorPmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=592e-6
mNormalTransistorPmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=1e-6 W=592e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp90

** Expected Performance Values: 
** Gain: 92 dB
** Power consumption: 4.52901 mW
** Area: 2681 (mu_m)^2
** Transit frequency: 63.0041 MHz
** Transit frequency with error factor: 63.0039 MHz
** Slew rate: 86.9662 V/mu_s
** Phase margin: 80.7871°
** CMRR: 140 dB
** VoutMax: 3.85001 V
** VoutMin: 0.870001 V
** VcmMax: 3.77001 V
** VcmMin: 1.21001 V


** Expected Currents: 
** NormalTransistorNmos: 126.233 muA
** NormalTransistorPmos: -12.2169 muA
** NormalTransistorPmos: -373.675 muA
** NormalTransistorPmos: -373.675 muA
** DiodeTransistorNmos: 373.676 muA
** NormalTransistorNmos: 373.675 muA
** NormalTransistorNmos: 373.676 muA
** DiodeTransistorNmos: 373.675 muA
** NormalTransistorPmos: -873.581 muA
** NormalTransistorPmos: -373.674 muA
** NormalTransistorPmos: -373.674 muA
** DiodeTransistorNmos: 12.2161 muA
** DiodeTransistorPmos: -126.232 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.96101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.646001  V
** outVoltageBiasXXpXX1: 1.94701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.25101  V
** innerTransistorStack1Load2: 0.637001  V
** innerTransistorStack2Load2: 0.639001  V
** out1: 1.27801  V
** sourceGCC1: 3.00201  V
** sourceGCC2: 3.00201  V


.END